OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8602926027585318912
* Revision: Rev:1.0
.model OC_HONGJIACHENG_FR102W D(IS=2.3201217645e-8 N=1.8000000000e0 RS=1.0000000000e-4)
.temp 25
Itest 0 anode DC 1.000000000000e+00
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_HONGJIACHENG_FR102W
.op
.end
